US06573402B1
By following the similar procedure in Synthesis Example 1 by using 5-aminosalicylic acid (1.00 g, 6.53 mmole) and 4-methoxybenzyl chloride (1.23 g, 7.84 mmole), 890 mg (50% yield) of 5-(4-methoxybenzyl)aminosalicylic acid was obtained as a white solid.: mp 205-206° C.

reactant | 5-aminosalicylic acid | 6.53 mmole, 1.00 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | 4-methoxybenzyl chloride | 7.84 mmole, 1.23 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 5-(4-methoxybenzyl)aminosalicylic acid | 890 mg, 50% yield | COC1=CC=C(CNC2=CC=C(C(C(=O)O)=C2)O)C=C1 | C15H15NO4
